US07420066B2
This compound was prepared from 1-benzo[1,3]dioxol-4-yl-ethanone (2.15 g, 13.1 mmol) in the manner described for 2-bromo-1-(2,5-dichlorophenyl)ethanone (Example I-2), affording 1.54 g (48%) of 1-benzo[1,3]dioxol-4-yl-2-bromo-ethanone as an off-white solid. 1H-NMR (CD2Cl2) δ; 7.41 (dd, J=8.1 Hz, 1H), 7.05 (dd, J=8.1 Hz, 1H), 6.94 (dd, J=8.8 Hz, 1H), 6.13 (s, 2H), 4.55 (s, 2H). TLC Rf=0.28, 15%, ethyl acetate—hexanes.

reactant | 1-benzo[1,3]dioxol-4-yl-ethanone | 13.1 mmol, 2.15 g | O1COC2=C1C=CC=C2C(C)=O | C9H8O3
reactant | 2-bromo-1-(2,5-dichlorophenyl)ethanone | BrCC(=O)C1=C(C=CC(=C1)Cl)Cl | C8H5BrCl2O
product | 1-benzo[1,3]dioxol-4-yl-2-bromo-ethanone | 1.54 g, 48% | O1COC2=C1C=CC=C2C(CBr)=O | C9H7BrO3
